US04504490
30 ml of N-chlorosulfonyl isocyanate are added dropwise, at +10° C., to 108 g of 2-amino-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene in 800 ml of toluene. The mixture is stirred for a further two hours while cooling, and 500 ml of petroleum ether are added. The 2-(3-chlorosulfonylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene produced is filtered off with suction, washed with petroleum ether and dried over potassium hydroxide, melting point 137° C., decomposition. 150 g of this sulfochloride are introduced, with stirring and cooling in ice, into 2 liters of 1N HCl. The mixture is stirred for 2 hours while cooling and for 5 hours at room temperature, and next day the precipitate is filtered off with suction, washed with water to neutrality and dried, melting point 152° C.

reactant | N-chlorosulfonyl isocyanate | 30 ml | C(=NS(=O)(=O)Cl)=O | CClNO3S
reactant | 2-amino-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene | 108 g | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-] | C13H9F3N2O5S
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chlorosulfonylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene | ClS(=O)(=O)NC(NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-])=O | C14H9ClF3N3O8S2
